US08003703B2
(i) tert-Butyl 2-(4-fluoro-2-methoxyphenoxy)-2-methylpropanoate
Potassium carbonate (0.97 g) was added to a solution of 2-methoxy-4-fluorophenol (1.0 g) and tert-butyl-2-bromoisobutyrate (1.31 ml) in acetonitrile (20 ml) and heated under reflux for 26 h. The mixture was diluted with water and extracted with ethyl acetate, the organics were dried and evaporated under reduced pressure. The residue was purified by chromatography on silica eluting with using isohexane:diethylether 3:1, yield 0.83 g.

reactant | Potassium carbonate | 0.97 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-methoxy-4-fluorophenol | 1.0 g | COC1=C(C=CC(=C1)F)O | C7H7FO2
reactant | tert-butyl-2-bromoisobutyrate | 1.31 ml | C(C)(C)(C)OC(C(C)(C)Br)=O | C8H15BrO2
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
solvent | water | O | H2O
product | tert-Butyl 2-(4-fluoro-2-methoxyphenoxy)-2-methylpropanoate | FC1=CC(=C(OC(C(=O)OC(C)(C)C)(C)C)C=C1)OC | C15H21FO4
